US06458967B1
1-(4-Isopropylphenyl)-5-phenyl-1,4-pentadiyn-3-al:
C20H16O, FW=272.34 g/mol. 1-(4-Isopropylphenyl)-5-phenyl-1,4-pentadiyn-3-ol (5.65 g, 20.6 mmol) and manganese dioxide (10.74 g, 124 mmol) were combined in dichloromethane (41 mL) and heated to reflux for 30 minutes. Following completion of the reaction, the reaction mixture is filtered through celite, concentrated and the orange liquid product is isolated in 92% yield. Rf 0.87 (DCM) 1H NMR (500 MHz, CDCl3, ppm) d 7.63 (d, 2H, J=7.0 Hz), 7.57 (d, 2H, J=8.4 Hz), 7.46 (d, 1H, J=7.3 Hz), 7.40 (d, 2H, J=7.7 Hz), 7.29 (Ar, m, 2H) 2.93 (m, 1H), 1.24 (d, 6H, J=7.0 Hz); HR MS (EI) m/z calculated 272.120115, found 272.119612.

reactant | 1-(4-Isopropylphenyl)-5-phenyl-1,4-pentadiyn-3-ol | 20.6 mmol, 5.65 g | C(C)(C)C1=CC=C(C=C1)C#CC(C#CC1=CC=CC=C1)O | C20H18O
solvent | dichloromethane | 41 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 124 mmol, 10.74 g | [O-2].[O-2].[Mn+4]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(4-Isopropylphenyl)-5-phenyl-1,4-pentadiyn-3-al | 92% yield | C(C)(C)C1=CC=C(C=C1)C#CC(C#CC1=CC=CC=C1)=O | C20H16O
